US06797726B1
In a mixture of 0.21 mL of 6 mol/L hydrochloric acid and 1 mL of water is dissolved 0.37 g of 2-[[2-(2-(5-methoxybenzo[b]furan-6-yl)ethoxy]ethyl}-(methyl)amino]-1-ethanol. The resulting solution is frozen and water is distilled off therefrom under reduced pressure. Thus, 0.40 g of 2-[{2-[2-(5-methoxybenzo[b]furan-6-yl)ethoxy]-ethyl}(methyl)amino]-1-ethanol hydrochloride is obtained as an oily product.

reactant | 2-[[2-(2-(5-methoxybenzo[b]furan-6-yl)ethoxy]ethyl}-(methyl)amino]-1-ethanol | 0.37 g | COC1=CC2=C(OC=C2)C=C1CCOCCN(CCO)C | C16H23NO4
reactant | hydrochloric acid | 6 mol/L, 0.21 mL | Cl | ClH
solvent | water | 1 mL | O | H2O
product | 2-[{2-[2-(5-methoxybenzo[b]furan-6-yl)ethoxy]-ethyl}(methyl)amino]-1-ethanol hydrochloride | 0.40 g | Cl.COC1=CC2=C(OC=C2)C=C1CCOCCN(CCO)C | InChI=1S/C16H23NO4.ClH/c1-17(5-7-18)6-10-20-8-3-13-12-16-14(4-9-21-16)11-15(13)19-2;/h4,9,11-12,18H,3,5-8,10H2,1-2H3;1H
